US08470841B2
39h N—{(S)-2-[6-(4-Isopropoxyphenoxy)pyridin-3-yloxy]-1-methylethyl}acetamide
N—{(S)-2-[6-(4-Hydroxyphenoxy)pyridin-3-yloxy]-1-methylethyl}acetamide (33 mg, 0.1 mmol) and 2-bromopropane (16 mg, 0.13 mmol) were reacted in analogy to example 1a. Yield: 23 mg (62%), M+H+: 345.19.

reactant | N—{(S)-2-[6-(4-Hydroxyphenoxy)pyridin-3-yloxy]-1-methylethyl}acetamide | 0.1 mmol, 33 mg | OC1=CC=C(OC2=CC=C(C=N2)OC[C@H](C)NC(C)=O)C=C1 | C16H18N2O4
reactant | 2-bromopropane | 0.13 mmol, 16 mg | BrC(C)C | C3H7Br
product | N—{(S)-2-[6-(4-Isopropoxyphenoxy)pyridin-3-yloxy]-1-methylethyl}acetamide | C(C)(C)OC1=CC=C(OC2=CC=C(C=N2)OC[C@H](C)NC(C)=O)C=C1 | C19H24N2O4
